US08227500B2
1-(Toluene-4-sulfonyl)ethylisocyanide
To a solution of toluene-4-sulfonylmethylisocyanide (15 g), methyl iodide (109 g) benzyl trimethyl ammonium chloride (3.5 g) in dichloromethane (300 mL) was added 5 mol/L aqueous sodium hydroxide solution (307 mL) under ice cooling, and this mixture was stirred at same temperature for 2 hours. To this reaction mixture was added water and this mixture was extracted with diethyl ether. This organic layer was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give the title compound (16 g).

reactant | toluene-4-sulfonylmethylisocyanide | 15 g | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | methyl iodide | 109 g | CI | CH3I
reactant | sodium hydroxide | 5 mol/L, 307 mL | [OH-].[Na+]
reactant | water | O | H2O
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | 1-(Toluene-4-sulfonyl)ethylisocyanide | 16 g | C1(=CC=C(C=C1)S(=O)(=O)C(C)[N+]#[C-])C | C10H11NO2S
